datasets/RMG-dataset.csv
rxn,Ea
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]1=[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]1([H:19])[H:20])[H:15]>>[C:0]([C:1](=[C:2]([C:3]([H:13])[H:14])[H:12])[H:11])(=[C:4]([C:5]1=[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]1([H:19])[H:20])[H:15])[H:10],130.5408
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16](=[C:17]([H:19])[H:20])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[C:16](=[C:17]([H:19])[H:20])[H:18])[H:8])([H:6])[H:7],16.6523
[C:0]([N:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([H:10])([H:11])[H:12]>>[C:0](=[N:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:9]([H:10])([H:11])[H:12],-2.619184
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[H:9][C:15]([H:16])([H:17])[H:18],22.932504
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:9]([C:8]([H:12])([H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])[H:6],7.40568
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14])[H:3],1.9024648
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([C:7]([C:8](=[S:9])[H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7]([C:6]([H:10])([H:11])[H:12])([C:8](=[S:9])[H:14])[H:13],119.37
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])([H:7])[C:13]([C:12]([H:16])([H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])([H:4])([H:5])[H:6],15.1461
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])([H:6])[H:7].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])([H:9])[C:15]([C:14]([H:18])([H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:8])([H:6])[H:7],3.26352
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19]([H:20])([H:21])[H:22]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:19]([H:20])([H:21])[H:22],10.8784
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25](=[C:26]([C:27]([C:28]([H:33])([H:34])[H:35])[H:32])[H:31])([H:29])[H:30]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:16][C:27]([C:26](=[C:25]([H:29])[H:30])[H:31])([C:28]([H:33])([H:34])[H:35])[H:32],77.404
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([H:17])([H:18])[H:19])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]([C:6]([H:17])([H:18])[H:19])[H:16])[H:15],29.9574
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[S:3])([H:4])([H:5])[H:6].[C:10]([H:11])([H:12])[H:13]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([S:3])[C:10]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6],22.5936
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[H:12]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[H:12])[H:6],4.72792
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[O:4][H:14])([H:5])([H:6])[H:7].[C:15]([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:5])([H:6])[H:7].[O:4]([H:14])[C:15]([H:16])([H:17])[H:18],172.012
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[O:15][O:16]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])([H:7])[O:15][O:16],0.8313608
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]=[S:9])([H:10])([H:11])[H:12]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:8]([C:7]([H:10])([H:11])[H:12])=[S:9],40.5848
